US05030724
2,3-Dihydroxy-5-sulfobenzoic acid hydrazide
2,3-Dihydroxy-5-sulfobenzoic acid, methyl ester, monopotassium salt (2.7 g, 9.4 mmole) and neat hydrazine (0.88 ml, 28 mmoles) in 100 ml of methanol were refluxed for 48 hours. The resulting white precipitate was filtered, dried, and dissolved in water (10 ml). Acidification to pH=2.5 with 2N hydrochloric acid, filtering and drying gave 940 mg of the title compound as a solid.

reactant | 2,3-Dihydroxy-5-sulfobenzoic acid, methyl ester | OC1=C(C(=O)OC)C=C(C=C1O)S(=O)(=O)O | C8H8O7S
reactant | monopotassium | 9.4 mmole, 2.7 g | [K] | K
reactant | hydrazine | 28 mmoles, 0.88 ml | NN | H4N2
solvent | methanol | 100 ml | CO | CH4O
product | 2,3-Dihydroxy-5-sulfobenzoic acid hydrazide | 940 mg | OC1=C(C(=O)NN)C=C(C=C1O)S(=O)(=O)O | C7H8N2O6S
